US07517889B2
A solution of (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(4-trifluoromethoxyphenyl)-ethyl]amine (1.6 g), 2-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-methyl-propionic acid methyl ester (0.63 g), Cs2CO3 (11.6 g) and tetrakis(triphenylphosphine)palladium (0) (33 mg) in water (8 mL) and DME (32 mL) is heated at 90° C. for 16 hours. The solution is poured into water and extracted with EtOAc (2×200 mL). The combined extract is dried over sodium sulfate, filtered, evaporated in vacuo and chromatographed on silica gel eluting with EtOAc to afford 2-(2-fluoro-5-{2-methoxy-6-[2-(4-trifluoromethoxy-phenyl)-ethylamino]-pyrimidin-4-yl}-phenyl)-2-methyl-propionic acid methyl ester (300 mg). MS: 508 (M+H); 1H NMR (300 MHz, CD3OD), □7.8, (d, 1H, J=0.3 Hz); 7.7 (m, 1H); 7.4 (d, 2H, J=0.4 Hz); 7.2-7.3 (m, 4H); 6.6 (s, 1H); 4.2 (s, 3H); 4 (s, 3H); 3.9 (m, 2H); 3.05 (t, 2H); 1.65 (s, 6H).

reactant | (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(4-trifluoromethoxyphenyl)-ethyl]amine | 1.6 g | ClC1=CC(=NC(=N1)OC)NCCC1=CC=C(C=C1)OC(F)(F)F | C14H13ClF3N3O2
reactant | 2-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-methyl-propionic acid methyl ester | 0.63 g | COC(C(C)(C)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)=O | C17H24BFO4
reactant | Cs2CO3 | 11.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | 8 mL | O | H2O
solvent | DME | 32 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 33 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-fluoro-5-{2-methoxy-6-[2-(4-trifluoromethoxy-phenyl)-ethylamino]-pyrimidin-4-yl}-phenyl)-2-methyl-propionic acid methyl ester | 300 mg | COC(C(C)(C)C1=C(C=CC(=C1)C1=NC(=NC(=C1)NCCC1=CC=C(C=C1)OC(F)(F)F)OC)F)=O | C25H25F4N3O4
